US08486996B2
ω-(2-Cyano-4-chlorophenoxy)-2-benzyloxy-acetophenone
A suspension of potassium carbonate (0.06 g, 4.0 mmol), 4-chloro-2-cyanophenol (0.25 g, 1.6 mmol) and ω-bromo-2-benzyloxy-acetophenone (0.49 g, 1.6 mmol) in dry DMF (10 ml) is stirred at room temperature for 20 h. After evaporating the solvent under reduced pressure the residue is taken up in ethyl acetate. The solution is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is purified by silical gel column chromatography to yield the title compound.

reactant | potassium carbonate | 4.0 mmol, 0.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-cyanophenol | 1.6 mmol, 0.25 g | ClC1=CC(=C(C=C1)O)C#N | C7H4ClNO
reactant | ω-bromo-2-benzyloxy-acetophenone | 1.6 mmol, 0.49 g | BrC(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C15H13BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ω-(2-Cyano-4-chlorophenoxy)-2-benzyloxy-acetophenone | C(#N)C1=C(OC(C(=O)C2=CC=CC=C2)OCC2=CC=CC=C2)C=CC(=C1)Cl | C22H16ClNO3
